US07728025B2
6-(1-Acetyl-4,5-dihydro-1H-pyrrol-2-yl)-5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole
2 mg of bis(2-methoxyethyl)aminosulfur trifluoride was added to a chloroform (1 ml) solution of 2 mg of 1-acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-ol diastereomer A obtained in Example 469, and the reaction liquid was stirred at room temperature for 15 minutes. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=15/1) to obtain the entitled compound as a colorless oily substance.

reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 2 mg | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | 1-acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-ol | 2 mg | C(C)(=O)N1C(C(CC1)O)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)S(=O)(=O)C | C25H24N4O5S
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(1-Acetyl-4,5-dihydro-1H-pyrrol-2-yl)-5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole | C(C)(=O)N1C(=CCC1)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)S(=O)(=O)C | C25H22N4O4S
